US05840947
1. 2-(2-(2-Pyridyl)benzyl)propionic Acid
148 g (0.85 mol) of diethyl methylmalonate were added dropwise at room temperature to 19.5 g (0.85 mol) of sodium in 400 cm3 of H2 O-free EtOH. Subsequently, 211 g (0.85 mol) of 2-(2-pyridyl)benzyl bromide were added dropwise and the mixture was heated under reflux for 3 hours. At room temperature, 143 g (2.55 mol) of KOH dissolved in 500 cm3 of H2O were added and the mixture was heated under reflux for a further 4 hours. The EtOH was distilled off and the residue was admixed with H2O until completely dissolved and subsequently acidified with concentrated aqueous HCl to a pH of 1. The precipitate formed was filtered off with suction, dried and heated for 1 hour at 130° C. This gave 193 g (94%) of 2-(2-(2-pryridyl)benzyl)propionic acid as solid.

reactant | diethyl methylmalonate | 0.85 mol, 148 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | sodium | 0.85 mol | [Na] | Na
reactant | 2-(2-pyridyl)benzyl bromide | 0.85 mol, 211 g | N1=C(C=CC=C1)C1=C(CBr)C=CC=C1 | C12H10BrN
reactant | KOH | 2.55 mol, 143 g | [OH-].[K+]
solvent | H2O | 500 cm3 | O | H2O
product | 2-(2-(2-Pyridyl)benzyl)propionic Acid | N1=C(C=CC=C1)C1=C(CC(C(=O)O)C)C=CC=C1 | C15H15NO2
